US07338959B2
N2-tert-Butyl-N5-[2-(4-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example 1 with N2-tert-butyl-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (69 mg, 0.20 mmol) and 4-[(methylsulfonyl)methyl]aniline (37 mg, 0.20 mmol) as a white solid (111 mg, 95%). 1H NMR (300 MHz, d6-DMSO) δ 9.28 (s, 1H), 7.77-7.79 (m, 3H), 7.24 (d, J=8.4 Hz, 3H), 7.16 (d, J=1.5 Hz, 1H), 6.88 (d, J=7.8 Hz, 1H), 6.21 (br s, 1H), 5.67 (d, J=6.0 Hz, 1H), 4.35 (s, 2H), 3.54 (s, 3H), 3.45 (s, 3H), 2.86 (s, 3H), 1.47 (s, 9H) ppm. MS (ESI) m/z=494 [M+H]+.

reactant | N2-tert-butyl-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.20 mmol, 69 mg | C(C)(C)(C)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C17H21ClN6
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.20 mmol, 37 mg | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
product | N2-tert-Butyl-N5-[2-(4-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.C(C)(C)(C)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)C | InChI=1S/C25H31N7O2S.ClH/c1-25(2,3)30-24-28-20-15-19(11-12-21(20)32(24)5)31(4)22-13-14-26-23(29-22)27-18-9-7-17(8-10-18)16-35(6,33)34;/h7-15H,16H2,1-6H3,(H,28,30)(H,26,27,29);1H
